2190-11-13 07:52:00 Physician Resident Progress Note
Chief Complaint: Acute mental status changes, UGIB
   24 Hour Events:
 INVASIVE VENTILATION - START [**2190-11-12**] 06:57 PM
 LUMBAR PUNCTURE - At [**2190-11-13**] 12:00 AM
   -LP showed 1WBC, 2 RBCs, Protein 73, Glucose 93, neg gram stain
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2190-11-12**] 07:09 PM
   Ceftriaxone - [**2190-11-12**] 09:01 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Unable to obtain
   Flowsheet Data as of  [**2190-11-13**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 69 (57 - 80) bpm
   BP: 167/77(101) {116/64(74) - 177/80(101)} mmHg
   RR: 24 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    443 mL
                                                                    141 mL
   PO:
             TF:
   IVF:
                                                                    323 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                    280 mL
   Urine:
                                                                    425 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     18 mL
                                                                   -139 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 772 (641 - 853) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 14.3 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: bases)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   60 K/uL
   9.9 g/dL
   107 mg/dL
   1.8 mg/dL
   21 mEq/L
   3.7 mEq/L
   24 mg/dL
   112 mEq/L
   143 mEq/L
   28.2 %
   5.0 K/uL
        [image002.jpg]
                            [**2190-11-12**]  07:46 PM
                            [**2190-11-13**]  05:24 AM
   WBC
   6.1
   5.0
   Hct
   26.2
   28.2
   Plt
   54
   60
   Cr
   1.8
   Glucose
   107
   Other labs: PT / PTT / INR:15.0/32.6/1.3, ALT / AST:18/36, Alk Phos / T
   Bili:85/1.1, LDH:282 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.4
   mg/dL
   Imaging: CT abdomen:  No acute intra-abdominal process.stable
   appearance since prior study.cirrhosis with stable TIPS position.No
   free fluid in the abdomen.
   CT head:  No acute intracranial process.
   CXR:  1. Endotracheal and nasogastric tubes in appropriate position.
   2. Minimally displaced fracture of a lateral lower right rib,
   approximately
   at the level of the right eighth rib, of indeterminate age, but without
   callus
   formation seen. Prior chest radiographs did not well evaluate this
   location.
   3. Vascular engorgement.
   Microbiology: [**2190-11-12**] 12:09 am CSF;SPINAL FLUID
      GRAM STAIN (Final [**2190-11-13**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   60 year old man with history of hepatitis C, cirrhosis, esophageal
   varices, currently on liver transplant list presenting with upper GI
   bleed in setting of recent MVC, intubated for acute mental status
   changes.
   #  UPPER GI BLEED:  Currently hemodynamically stable.  HCT at OSH was
   34.  Positive NG Lavage at OSH, no coffee grounds here.  Hepatology
   following. Pt will need EGD in AM, sooner if decompensates. Given
   history of varices, this would be most likely cause. Patient however
   had patent TIPS on [**2190-10-6**] which should significantly decrease the
   risk of variceal bleed. In addition to TIPS stenosis would also
   consider peptic ulcer disease, portal gastropathy, etc.
   - Plan for EGD today v. later
   - IV PPI [**Hospital1 **]
   - Hold octreotide per GI
   - CTX for SBP ppx given UGI bleed
   - Cross matched
   - q6h Hct
   - Liver ultrasound with doppler to assess for TIPS patency
   - hold coumadin
   - hold propranolol
   .
   # ALTERED MENTAL STATUS: As suggested by past presentations, this is
   most likely hepatic encephalopathy precipitated by UGI bleed.  Expect
   worsening after TIPS.  No s/sxs of infection.  Negative U/A.  CXR
   without sig. infiltrate.  No ascites to tap.  LP negative for
   meningitis.  CT head negative for acute pathology.
   - assess mental status function off propofol
   - Lactulose, titrate to 6 BM
   - Restarted rifaximin
   - f/u cultures
   .
   #  RESPIRATORY FAILURE: Patient intubated given worsening confusion /
   agitation. No intrinsic ventilatory defect, anticipate extubation will
   be determined by mental status.
   - Minimize opiates / benzos for sedation given worsening hepatic
   function
   - Maintain on minimal support as tolerated
   - SBP if mental status cleared
   .
   # Cirrhosis:
   - cont. lactulose, rifaxamin
   - CTX for SBP ppx
   - Liver following, appreciate recs
   .
   # Chronic renal insufficiency:  Cr at baseline.
   .
   # Diabetes Mellitus:
   - 1/2 dose of home lantus + RISS
   .
   # Hypertension:
   - hold propanolol for now
   .
   # Portal vein thrombosis:
   - hold coumadin
   .
   # Chronic back pain, off methadone, on codeine:
   - hold codeine for now
   .
   # FEN: IVFs prn / replete lytes prn / NPO
   # PPX: PPI, pneumoboots, lactulse
   # ACCESS: PIVs
   # CODE:  FULL
   # CONTACT:  Wife [**Name (NI) 338**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2190-11-12**] 07:44 PM
   20 Gauge - [**2190-11-12**] 07:44 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:  ICU

2190-11-13 10:05:00 Physician Attending Progress Note
Chief Complaint: delta ms, gib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60M with cirrhosis hcv, esoph varices, s/p tips in [**2188**], presents with
   delta ms after recent mva, intubated at OSH for airway protection.
   Stable hct since transfer:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2190-11-12**] 06:57 PM
 LUMBAR PUNCTURE - At [**2190-11-13**] 12:00 AM
   stable on vent overnight.
   agitated delirium this am.
   hct sbable.
   lp clean.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2190-11-12**] 07:09 PM
   Ceftriaxone - [**2190-11-12**] 09:01 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-11-13**] 08:00 AM
   Propofol - [**2190-11-13**] 08:00 AM
   Other medications:
   ctx, riss, parox, lactulose, rifaximin, porpofol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth, OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Integumentary (skin): No(t) Jaundice
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2190-11-13**] 09:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 68 (57 - 80) bpm
   BP: 153/83(100) {116/64(74) - 177/83(101)} mmHg
   RR: 18 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    443 mL
                                                                    261 mL
   PO:
             TF:
   IVF:
                                                                    323 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                    580 mL
   Urine:
                                                                    425 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     18 mL
                                                                   -319 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 563 (563 - 853) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 37
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 11.2 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, rass -3
   Labs / Radiology
   9.9 g/dL
   60 K/uL
   107 mg/dL
   1.8 mg/dL
   21 mEq/L
   3.7 mEq/L
   24 mg/dL
   112 mEq/L
   143 mEq/L
   28.2 %
   5.0 K/uL
        [image002.jpg]
                            [**2190-11-12**]  07:46 PM
                            [**2190-11-13**]  05:24 AM
   WBC
   6.1
   5.0
   Hct
   26.2
   28.2
   Plt
   54
   60
   Cr
   1.8
   Glucose
   107
   Other labs: PT / PTT / INR:15.0/32.6/1.3, ALT / AST:18/36, Alk Phos / T
   Bili:85/1.1, LDH:282 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.4
   mg/dL
   Fluid analysis / Other labs: lp: neg gs;
   Imaging: cxr: none this am
   Microbiology: cultures negative
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   60M with HCV cirrhosis, presented with delta MS, likely hepatic
   encephalopathy given neg head ct, lp, remains intubated, initially for
   airway protection. His lung mechanics and gas exchange is adequate. If
   he continues to show signs of agitated delirium, will try
   antipsychotics prior to extubation. Also, will consider restarting pain
   meds. Otherwise, will cotinue rifaximin and lactulose. Goal is to
   extubated today
 mental status is the only barrier at this time.
   No signs of active GIB. Liver following; no need for EGD at this [**Doctor First Name **].
   ICU Care
   Nutrition: NPO for extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2190-11-12**] 07:44 PM
   20 Gauge - [**2190-11-12**] 07:44 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2190-11-14 07:55:00 Physician Resident Progress Note
Chief Complaint: hepatic encephalopathy, UGIB
   24 Hour Events:
   -persistent encephalopathy with asterixis when lightened sedation so
   deferred extubation
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2190-11-12**] 07:09 PM
   Ceftriaxone - [**2190-11-13**] 08:17 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2190-11-13**] 02:09 PM
   Pantoprazole (Protonix) - [**2190-11-13**] 08:39 PM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable to obtain
   Flowsheet Data as of  [**2190-11-14**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 57 (54 - 73) bpm
   BP: 159/76(97) {126/67(83) - 170/100(113)} mmHg
   RR: 17 (8 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    918 mL
                                                                    162 mL
   PO:
             TF:
   IVF:
                                                                    438 mL
                                                                    162 mL
   Blood products:
   Total out:
                                                                  1,205 mL
                                                                  1,215 mL
   Urine:
                                                                  1,205 mL
                                                                    215 mL
   NG:
   Stool:
   1,000 mL
   Drains:
   Balance:
                                                                   -287 mL
                                                                 -1,053 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 666 (563 - 666) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 27 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 9.2 L/min
   Physical Examination
   General Appearance: Intubated, sedated
   Eyes / Conjunctiva: PERRL
   Cardiovascular: reg rate nl S1S2 no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: diminished at bases, otherwise clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: withdraws to pain
   Labs / Radiology
   49 K/uL
   10.5 g/dL
   123 mg/dL
   1.7 mg/dL
   21 mEq/L
   3.4 mEq/L
   22 mg/dL
   112 mEq/L
   143 mEq/L
   28.9 %
   4.6 K/uL
        [image002.jpg]
                            [**2190-11-12**]  07:46 PM
                            [**2190-11-13**]  05:24 AM
                            [**2190-11-13**]  01:53 PM
                            [**2190-11-14**]  05:32 AM
   WBC
   6.1
   5.0
   4.6
   Hct
   26.2
   28.2
   26.7
   28.9
   Plt
   54
   60
   49
   Cr
   1.8
   1.7
   Glucose
   107
   123
   Other labs: PT / PTT / INR:14.4/32.8/1.2, ALT / AST:18/36, Alk Phos / T
   Bili:85/1.1, LDH:282 IU/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.2
   mg/dL
   Imaging: [**11-13**] RUQ U/S
   1. Patent TIPS with wall-to-wall flow and velocities between 90 and 190
   cm/sec, increased relative to prior which may be secondary to technical
   factors.
   2. Unchanged occlusion of the left portal vein.
   Microbiology: [**2190-11-12**] 12:09 am CSF;SPINAL FLUID
      GRAM STAIN (Final [**2190-11-13**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
         This is a concentrated smear made by cytospin method, please
   refer to
         hematology for a quantitative white blood cell count..
      FLUID CULTURE (Preliminary):  pending
   [**11-12**] UCx No growth.
   [**11-12**] BCX NGTD
   Assessment and Plan
   60M with hep C cirrhosis complicated by portal HTN s/p TIPS, esophageal
   varices, and left portal vein thrombosis, on transplant list,admitted
   with UGIB in the setting of recent MVC, intubated for airway protection
   in the setting of hepatic encephalopathy.
   #UGIB  - Hemodynamically stable with stable Hct; despite +NGL at OSH,
   no evidence of further bleeding here; RUQ showed no significant change
   in TIPS flow
   - appreciate liver recs
   - IV PPI [**Hospital1 **]
   - hold octreotide per GI
   - CTX for SBP ppx
   - active T&S
   - [**Hospital1 **] Hct unless e/o further bleeding
   - hold coumadin.
   #Hepatic encephalopathy
   - wean sedation for trial of extubation
   - cont lactulose, rifaxamin
   - restart propranolol if/when hemodynamically stable after extubation
   - f/u CSF, blood cultures
   .
   # Chronic renal insufficiency:  Cr at baseline.
   .
   # Diabetes Mellitus: well-controlled
   - 1/2 dose of home lantus + RISS
   .
   # Portal vein thrombosis:
   - hold coumadin
   .
   # Chronic back pain, off methadone, on codeine:
   - restart codeine
   .
   # FEN: IVFs prn / replete lytes prn /
   # PPX: PPI, pneumoboots
   # ACCESS: PIVs
   # CODE:  FULL
   # CONTACT:  Wife [**Name (NI) 338**] [**Telephone/Fax (1) 10652**]
   # DISPO: ICU
   ICU Care
   Nutrition: NPO
   Glycemic Control:  ISS
   Lines:
   22 Gauge - [**2190-11-12**] 07:44 PM
   20 Gauge - [**2190-11-12**] 07:44 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP: bundle
   Code status:  FULL
   Disposition: ICU

2190-11-14 10:03:00 Physician Attending Progress Note
Chief Complaint: change in mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60M with hcv cirrhosis and history of esoph varices s/p tips, presents
   with hepatic encophalopathy of unclear etiology, initially intubated
   airway protection, with negative work-up for cns process other than
   hepatic encophalopathy
   24 Hour Events:
   extubated on rounds
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2190-11-12**] 07:09 PM
   Ceftriaxone - [**2190-11-13**] 08:17 PM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2190-11-13**] 02:09 PM
   Pantoprazole (Protonix) - [**2190-11-13**] 08:39 PM
   Other medications:
   ctx, glargine, riss, parox, lactulose, refaximin, pantopr
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Dyspnea
   Genitourinary: Foley
   Psychiatric / Sleep: Delirious
   Signs or concerns for abuse : No
   Pain: [**7-28**] Severe
   Pain location: back pain
   Flowsheet Data as of  [**2190-11-14**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.9
   HR: 55 (54 - 73) bpm
   BP: 122/83(93) {122/67(83) - 170/100(113)} mmHg
   RR: 19 (8 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    918 mL
                                                                    586 mL
   PO:
             TF:
   IVF:
                                                                    438 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  1,205 mL
                                                                  1,265 mL
   Urine:
                                                                  1,205 mL
                                                                    265 mL
   NG:
   Stool:
   1,000 mL
   Drains:
   Balance:
                                                                   -287 mL
                                                                   -679 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Set): 0 (0 - 550) mL
   Vt (Spontaneous): 0 (0 - 666) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 42
   PIP: 27 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 10.2 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal, No(t) Absent), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   left base)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): hospital, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   10.5 g/dL
   49 K/uL
   123 mg/dL
   1.7 mg/dL
   21 mEq/L
   3.4 mEq/L
   22 mg/dL
   112 mEq/L
   143 mEq/L
   28.9 %
   4.6 K/uL
        [image002.jpg]
                            [**2190-11-12**]  07:46 PM
                            [**2190-11-13**]  05:24 AM
                            [**2190-11-13**]  01:53 PM
                            [**2190-11-14**]  05:32 AM
   WBC
   6.1
   5.0
   4.6
   Hct
   26.2
   28.2
   26.7
   28.9
   Plt
   54
   60
   49
   Cr
   1.8
   1.7
   Glucose
   107
   123
   Other labs: PT / PTT / INR:14.4/32.8/1.2, ALT / AST:18/36, Alk Phos / T
   Bili:85/1.1, LDH:282 IU/L, Ca++:8.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   60M with HCV cirrhosis and h/o esoph varix bleed s/p tips in [**2188**],
   presented with delta ms likely from hepatic encephalopathy, intubated
   for airway protection now extubated and doing well.
   Will continue aggressive treatment for hepatic encophalopathy and will
   continue to discuss with liver re propranolol
   Still no evidence of bleeding.
   ICU Care
   Nutrition: will advance as tolerated
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2190-11-12**] 07:44 PM
   20 Gauge - [**2190-11-12**] 07:44 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill